US04298739
2.5 Grams of 6-(3-carboxy)propoxy-3,4-dihydrocarbostyril and 1.6 ml of triethylamine are added to 150 ml of dimethylformamide, and the mixture is further added dropwise with 1.3 ml of isobutyl chloroformate under external ice cooling and agitation while maintaining the internal temperature at 10° to 20° C. After this dropwise addition, the mixture is agitated at room temperature for 30 minutes, added with 1.3 ml of cyclohexylmethylamine and further agitated for 1 hour. After the reaction, the reaction solution is poured into about 1 liter of water and the precipitated crystals are filtered out and washed with water. The obtained crystals are dried and recrystallized from chloroform-petroleum ether to obtain 3.0 g of 6-{3-[N-(cyclohexylmethyl)aminocarbonyl]propoxy}-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with m.p. of 170°-172° C.

reactant | 6-(3-carboxy)propoxy-3,4-dihydrocarbostyril | C(=O)(O)CCCOC=1C=C2CCC(NC2=CC1)=O | C13H15NO4
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.3 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | cyclohexylmethylamine | 1.3 ml | C1(CCCCC1)CN | C7H15N
solvent | water | about 1 liter | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 6-{3-[N-(cyclohexylmethyl)aminocarbonyl]propoxy}-3,4-dihydrocarbostyril | 3.0 g | C1(CCCCC1)CNC(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C20H28N2O3
